US08445440B2
To a solution of ((S)-5-tert-butoxycarbonylamino-6-{(S)-2-[5-(4-fluoro-benzoyl)-pyridin-3-yl]-pyrrolidin-1-yl}-6-oxo-hexyl)-carbamic acid 9H-fluoren-9-ylmethyl ester (I-1a) in dichloromethane (15 mL) was added trifluoroacetic acid (5 mL). After stirring for 45 minutes, the reaction mixture was concentrated in vacuo to afford crude ((S)-5-amino-6-{(S)-2-[5-(4-fluoro-benzoyl)-pyridin-3-yl]pyrrolidin-1-yl}-6-oxo-hexyl)-carbamic acid 9H-fluoren-9-ylmethyl ester as a dark amber residue.

reactant | ((S)-5-tert-butoxycarbonylamino-6-{(S)-2-[5-(4-fluoro-benzoyl)-pyridin-3-yl]-pyrrolidin-1-yl}-6-oxo-hexyl)-carbamic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCCCC[C@@H](C(=O)N1[C@@H](CCC1)C=1C=NC=C(C1)C(C1=CC=C(C=C1)F)=O)NC(=O)OC(C)(C)C)=O | C42H45FN4O6
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | ((S)-5-amino-6-{(S)-2-[5-(4-fluoro-benzoyl)-pyridin-3-yl]pyrrolidin-1-yl}-6-oxo-hexyl)-carbamic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(NCCCC[C@@H](C(=O)N1[C@@H](CCC1)C=1C=NC=C(C1)C(C1=CC=C(C=C1)F)=O)N)=O | C37H37FN4O4
